US05958942
5-Chloro-3-trichloroacetylimidazo[1,2-a]pyridine
To a solution of 45.77 g (0.30 mol) of 5-chloroimidazo[1,2-a]pyridine and 120.9 g (0.99 mol) of 4-dimethylaminopyridine in 500 ml of chloroform was added dropwise 163.5 g (0.90 mol) of trichloroacetyl chloride. The mixture was heated for 43 hours under reflux. After cooling, the reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/n-hexan=1:1) to give 7.41 g of the desired compound (8.3%, pale brown solid).

reactant | 5-chloroimidazo[1,2-a]pyridine | 0.30 mol, 45.77 g | ClC1=CC=CC=2N1C=CN2 | C7H5ClN2
reactant | trichloroacetyl chloride | 0.90 mol, 163.5 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
catalyst | 4-dimethylaminopyridine | 0.99 mol, 120.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-3-trichloroacetylimidazo[1,2-a]pyridine | 7.41 g, 8.3% | ClC1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C9H4Cl4N2O
